US09107415B2
Preparation of [2-(2,6-dimethyl-4-prop-1-ynyl-phenyl)-3-oxo-4-(2-pyridylmethyl)cyclopenten-1-yl]isopropylsulfanylformate (Compound P-9)
To a solution of the 2-(2,6-dimethyl-4-prop-1-ynyl-phenyl)-4-(2-pyridylmethyl)cyclopentane-1,3-dione (0.100 g, 0.302 mmol) in dichloromethane (3.02 mL) was added N-ethyl-N-isopropyl-propan-2-amine (1.51 mmol, 0.265 mL). The reaction was then cooled in the freezer for 30 minutes before addition of S-isopropyl chlorothioformate (0.075 ml, 0.603 mmol), and then the reaction mixture was stirred overnight at room temperature. The reaction was then washed with water, dried and reduced in vacuo. The crude product was then purified by column chromatography, eluting with acetonitrile and dichloromethane, to give the desired product (23 mg, 18%). The product was characterised by HPLC, as follows.

reactant | 2-(2,6-dimethyl-4-prop-1-ynyl-phenyl)-4-(2-pyridylmethyl)cyclopentane-1,3-dione | 0.302 mmol, 0.100 g | CC1=C(C(=CC(=C1)C#CC)C)C1C(CC(C1=O)CC1=NC=CC=C1)=O | C22H21NO2
reactant | N-ethyl-N-isopropyl-propan-2-amine | 1.51 mmol, 0.265 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | S-isopropyl chlorothioformate | 0.603 mmol, 0.075 ml | ClC(=O)SC(C)C | C4H7ClOS
solvent | dichloromethane | 3.02 mL | ClCCl | CH2Cl2
product | [2-(2,6-dimethyl-4-prop-1-ynyl-phenyl)-3-oxo-4-(2-pyridylmethyl)cyclopenten-1-yl]isopropylsulfanylformate | 23 mg, 18% | CC1=C(C(=CC(=C1)C#CC)C)C1=C(CC(C1=O)CC1=NC=CC=C1)OC(=O)SC(C)C | C26H27NO3S
